* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.94871597158e-11
.param C2=8.71219388579e-11
.param Csh=1.85324004377e-11
.param L1=2.44433834206e-06
.param Vsrc_amp=794.320006474
.param ne=5.58175219796e+14
.param nu_m=105965614.739

* Sources
Vsrc src 0 SIN(0 794.320006474 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 21.0154561514
Lbulk nb ns 1.98323354262e-07
Csh ns n 1.85324004377e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
